US04012391
The novel compounds of the present invention originate from a novel process which utilizes dihydroresorcinol as the starting material. That substance thus is allowed to react with a chlorinating reagent such as phosphorus trichloride to afford 3-chloro-2-cyclohexen-1-one. Reaction with cycnoacetamide and sodium hydride results in α-cyano-3-oxo-1-cyclohexen-1-acetamide, which is contacted with a dialkylformamide acetal, for example dimethylformamide diethyl acetal or dimethylformamide dineopentyl acetal, to produce 2,3,5,6,7,8-hexahydro-3,8-dioxo-4-isoquinolinecarbonitrile. Elimination of the cyano group is effected by heating with hydrobromic acid, thus affording 2,3,5,6,7,8-hexahydro-3,8-isoquinolinedione. Heating with an alkyl or cycloalkyl halide produces the corresponding 6-alkoxy and 6-cycloalkoxy 7-aza-1-tetralones together with the N-alkylated or N-cycloalkylated derivatives. Typically, 2,3,5,6,7,8-hexahydro-3,8-isoquinolinedione is heated in benzene at the reflux temperature with methyl iodide and silver carbonate to yield 7-aza-6-methoxy-1-tetralone together with 2-methyl-2,3,5,6,7,8-hexahydro-3,8-isoquinolinedione.

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylformamide diethyl acetal | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | dimethylformamide dineopentyl acetal | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
reactant | α-cyano-3-oxo-1-cyclohexen-1-acetamide | C(#N)C(C(=O)N)C1=CC(CCC1)=O | C9H10N2O2
product | 2,3,5,6,7,8-hexahydro-3,8-dioxo-4-isoquinolinecarbonitrile | O=C1NC=C2C(CCCC2=C1C#N)=O | C10H8N2O2
